US05017466
6.4 g of p-toluidine was dissolved in 50 ml of tetrahydrofuran, and 5.5 g of 2,4,6-trichloropyrimidine was dropwise added thereto with stirring at room temperature. After being stirred for 1 hour, 200 ml of water was added to the reaction mixture. The crystal thus precipitated was taken out by filtration and dried to obtain 6.6 g of 2,4-dichloro-6-p-toluidinopyrimidine, which had a m.p. of 162° to 166° C. Next, 2.4 g of phenol and 8.6 g of potassium carbonate were dispersed in 30 ml of N,N'-dimethylimidazolin-2-one, and 2.54 g of the previously prepared 2,4-dichloro-6-p-toluidinopyrimidine was added thereto with stirring and then heated at 150° C. for 2 hours. After the reaction solution was cooled, 100 ml of ethyl acetate was added thereto. The solution was then washed with water and extracted. The resulting ethyl acetate extract was concentrated, and methanol was added to the residue for crystallization. Accordingly, 3.4 g of the intended Coupler (12) was obtained, which had a m.p. of 151° to 152° C.

reactant | p-toluidine | 6.4 g | NC1=CC=C(C=C1)C | C7H9N
reactant | 2,4,6-trichloropyrimidine | 5.5 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2,4-dichloro-6-p-toluidinopyrimidine | 6.6 g | ClC1=NC(=CC(=N1)Cl)NC1=CC=C(C=C1)C | C11H9Cl2N3
